US05030733
To a 33 ml solution of a 0.5M solution of 9-borabicyclo[3:3:1]nonane in tetrahydrofuran was added dropwise, under nitrogen, a solution of 6.0 g of 4-benzyloxy-1-heneicosene in 30 ml of dry tetrahydrofuran. After stirring at room temperature for 3 hours, the reaction was quenched by successive addition of 9 ml of ethanol, 3 ml of 6N sodium hydroxide and 6.5 ml 30% hydrogen peroxide. The reaction mixture was heated at 50° for 90 minutes and then allowed to stand at ambient temperature overnight. Upon standing, the reaction mixture separated into aqueous and organic phases. The aqueous phase was saturated with potassium carbonate, and the organic phase was separated, washed with 15 ml of 10% solution of sodium sulfite and 20 ml of saturated solution of sodium chloride, dried over potassium carbonate, and concentrated. The residue was taken up in a mixture of 20% diethyl ether/hexane, filtered and concentrated to an oil. Flash chromatography of the oil on silica gel using hexane/diethyl ether (2:1 by volume) as the eluent gave 4.88 g (78%) of 4-benzyloxyheneicosan-1-ol.

reactant | nonane | CCCCCCCCC | C9H20
reactant | 4-benzyloxy-1-heneicosene | 6.0 g | C(C1=CC=CC=C1)OC(CC=C)CCCCCCCCCCCCCCCCC | C28H48O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-benzyloxyheneicosan-1-ol | 4.88 g, 78% | C(C1=CC=CC=C1)OC(CCCO)CCCCCCCCCCCCCCCCC | C28H50O2
